US08372884B2
Synthesis of ((R)-2-(carboxyformamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid) (Compound N-19):
In a 100 mL round bottom flask, S-trans, trans-Farnesyl-L-cysteine (325 mg, 1 mmol) and N,N-diisopropyl-ethyl-amine (650 mg, 5 mmol) were mixed in CH2Cl2 (10 mL). Ethyl chloro oxoacetate (122 mg, 1 mmol) was added to the reaction mixture. The reaction solution was stirred at room temperature overnight. Reaction solvent was removed by rotary evaporation. The remained residue was dissolved in ethyl acetate (100 mL) and washed with an NH4Cl saturated solution (50 mL), dried over Na2SO4 and concentrated to afford a crude mixture. The crude reaction mixture and LiOH (126 mg, 3 mmol) were mixed in THF (3 mL) and water (3 mL). The reaction solution was stirred at room temperature for 4 hours. Ethyl acetate (50 mL) was added and then washed with 1N HCl (20 mL×2) and brine (20 mL×2) sequentially. The ethyl acetate solution was dried by Na2SO4 and concentrated in vacuo to afford a crude mixture. The crude mixture was purified by HPLC (60 mg, 16%) to yield Compound N-19. 1H-NMR (500 MHz, CD3OD): δ 1.60 (bs, 6H), 1.68 (s, 3H), 1.73 (s, 3H), 1.99 (t, J=7 Hz, 2H), 2.02-2.15 (m, 6H), 2.88 (dd, J=8.5, 14.0 Hz, 1H), 3.08 (dd, J=4.0, 14.0 Hz, 1H), 3.15 (dd, J=5.5, 13.5 Hz, 1H), 3.28 (dd, J=5.5, 13.0 Hz, 1H), 4.64 (dd, J=4.0, 7.5 Hz, 1H), 5.09-5.13 (m, 2H), 5.19 (t, J=7.5 Hz, 1H). 13C-NMR (125 MHz, CD3OD): δ 16.1, 16.2, 26.0, 27.4, 27.8, 30.2, 33.0, 40.8, 40.9, 53.7, 121.5, 125.1, 125.5, 132.1, 136.3, 140.7, 160.3, 162.4, 173.0; ES-MS: mass calcd for Chemical Formula: C20H31NO5S 397.5. Found (M+Na) m/z 420.2.

reactant | trans-Farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | N,N-diisopropyl-ethyl-amine | 5 mmol, 650 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | LiOH | 3 mmol, 126 mg | [Li+].[OH-]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (R)-2-(carboxyformamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid | C(=O)(O)C(=O)N[C@H](C(=O)O)CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C | C20H31NO5S
